US06087380
1-Methyl-2-[N-(2-amidino-pyrazin-5-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(2-cyano-pyrazin-5-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 19% of theory, C25H27N9O3 (501.6) Rf value: 0.28 (silica gel; dichloromethane/methanol=4:1+1% glacial acetic acid) ##EQU138##

reactant | 1-methyl-2-[N-(2-cyano-pyrazin-5-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC=2N=CC(=NC2)C#N)C)C=C1)CCC(=O)OCC | C25H24N8O3
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(2-amidino-pyrazin-5-yl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 19% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC=2N=CC(=NC2)C(N)=N)C)C=C1)CCC(=O)OCC | InChI=1S/C25H27N9O3.ClH/c1-3-37-23(35)9-11-34(21-6-4-5-10-28-21)25(36)16-7-8-19-17(12-16)32-22(33(19)2)15-31-20-14-29-18(13-30-20)24(26)27;/h4-8,10,12-14H,3,9,11,15H2,1-2H3,(H3,26,27)(H,30,31);1H
